US07635698B2
N-{1-[1-(4-Chloro-benzoyl)-4-hydroxy-pyrrolidin-3-yl]-piperidin-4-yl}-N-(4-chloro-phenyl)-acetamide
The starting materials (4-Chloro-phenyl)-{3-[4-(4-chloro-phenylamino)-piperidin-1-yl]-4-hydroxy-pyrrolidin-1-yl}-methanone (48 mg, 0.11 mmol) and Ac2O (16 uL, 0.17 mmol) were added in pyridine (0.5 mL) and stirred at room temperature overnight. The reaction mixture was concentrated down to dryness. The resulting crude residue was purified by column chromatography on silica (Methanol\CH2Cl2: 0%-6%).

reactant | (4-Chloro-phenyl)-{3-[4-(4-chloro-phenylamino)-piperidin-1-yl]-4-hydroxy-pyrrolidin-1-yl}-methanone | 0.11 mmol, 48 mg | ClC1=CC=C(C=C1)C(=O)N1CC(C(C1)O)N1CCC(CC1)NC1=CC=C(C=C1)Cl | C22H25Cl2N3O2
reactant | Ac2O | 0.17 mmol, 16 uL | CC(=O)OC(=O)C | C4H6O3
solvent | pyridine | 0.5 mL | N1=CC=CC=C1 | C5H5N
product | N-{1-[1-(4-Chloro-benzoyl)-4-hydroxy-pyrrolidin-3-yl]-piperidin-4-yl}-N-(4-chloro-phenyl)-acetamide | ClC1=CC=C(C(=O)N2CC(C(C2)O)N2CCC(CC2)N(C(C)=O)C2=CC=C(C=C2)Cl)C=C1 | C24H27Cl2N3O3
